US07727979B2
2-tert-butyl-6-chlorocyclohexanone (Starting Product for Example C-07)
N-butyl lithium is added dropwise to a solution, cooled to 0° C., of diisopropylamine (5.5 mmol) in dry tetrahydrofuran. After the addition is complete the mixture is cooled to −78° C., and a solution of 2-tert-butylcyclohexanone (5 mmol) in dry tetrahydrofuran (50 ml) is introduced, followed by the addition of p-toluenesulphonyl chloride (5 mmol), also dissolved in dry tetrahydrofuran (50 ml). The reaction mixture is heated to room temperature and after stirring for 30 mins over silica gel filtered with ether as eluant. After concentration by evaporation in a vacuum 2-tert-butyl-6-chlorcyclohexanone (760 mg) is obtained in a yield of 81% (Tet. Lett. 1999, 40(12), 2231-2234).

reactant | diisopropylamine | 5.5 mmol | C(C)(C)NC(C)C | C6H15N
reactant | 2-tert-butylcyclohexanone | 5 mmol | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
reactant | p-toluenesulphonyl chloride | 5 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-tert-butyl-6-chlorocyclohexanone | yield of 81% | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
